US05441955
2-Chloro-8-fluoroindolo[2,1-b]quinazoline-6,12-dione
To a suspension of NaH (10 mmol, 40 mg 60%) in 4 mL of DMF was added 10 mmol of 5-fluoroisatin in 2 mL of DMF. After 15 min, a solution of 5-chloroisatoic anhydride in 3 mL of DMF was added. The reaction mixture was stirred for 18 h, methanol (0.5 mL) and 20 mL of chloroform was added and the organic solution was washed with water, dried (MgSO4) and concentrated to give a residue which was purified by silica gel chromatography (CHCl3 :CH3OH). Yield 77%: mp 280°-282° C.

reactant | NaH | 10 mmol, 40 mg | [H-].[Na+]
reactant | 5-fluoroisatin | 10 mmol | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | 5-chloroisatoic anhydride | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | methanol | 0.5 mL | CO | CH4O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-8-fluoroindolo[2,1-b]quinazoline-6,12-dione | ClC=1C=C2C(N3C(=NC2=CC1)C(C1=CC(=CC=C13)F)=O)=O | C15H6ClFN2O2
